US09402833B2
Int-77: (R)-ethyl5-(2-(2-ethoxy-5-fluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyridine-3-carboxylate
Iodoethane (0.17 g, 1.08 mmol) was added to a mixture of (R)-ethyl 5-(2-(5-fluoro-2-hydroxyphenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyridine-3-carboxylate (Int-76) (0.2 g, 0.54 mmol) and K2CO3 (0.23 g, 1.62 mmol) in CH3CN (10 mL) and continued stirring at 80° C. for 16 h. The reaction mixture was diluted with ethyl acetate (100 mL), washed with water and dried over anhydrous sodium sulphate and concentrated under reduced pressure to afford the crude, which was purified by column chromatography (using silica gel and 2% ethyl acetate in hexane as eluent) to afford the desired compound (Int-77). MS (ESI): m/z 398.1 (M+H).

reactant | Iodoethane | 1.08 mmol, 0.17 g | ICC | C2H5I
reactant | (R)-ethyl 5-(2-(5-fluoro-2-hydroxyphenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyridine-3-carboxylate | 0.54 mmol, 0.2 g | FC=1C=CC(=C(C1)[C@@H]1N(CCC1)C1=CC=2N(C=C1)N=CC2C(=O)OCC)O | C20H20FN3O3
reactant | K2CO3 | 1.62 mmol, 0.23 g | C(=O)([O-])[O-].[K+].[K+]
solvent | CH3CN | 10 mL | CC#N | C2H3N
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | (R)-ethyl5-(2-(2-ethoxy-5-fluorophenyl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyridine-3-carboxylate | C(C)OC(=O)C=1C=NN2C1C=C(C=C2)N2[C@H](CCC2)C2=C(C=CC(=C2)F)OCC | C22H24FN3O3
